Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left- sided abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o gentleman with no significant PMH 
presenting with 2 hours of acute onset left-sided chest, 
abdominal, and back pain.  

Per patient, he was in his normal state of health until about 8 
pm on the night of presentation to the ED. While moving very 
light benches around the barbershop, where he works, sat down 
and then suddenly noticed sharp left-sided pain in his chest, 
abdomen, and back pain. He is not sure if he felt anything 
similar to that, but was concerned enough to present to the ED. 
He denies any associated fevers, chills, SOB, N/V, diarrhea. ROS 
also negative for associated dysuria or increased ___ swelling.  

In the ED, initial vitals: 98.8, 68, 182/101, 20, 100% RA  
 
 - Exam notable for: soft with TTP along the left hemiabdomen 
worse in the LLQ, 1+ left radial pulse compared with right  
 - Labs notable for: CBC 9.7/12.8/38.6/233, Cr 0.8, Trp <0.01, 
lacate 1.3  
 - Imaging: CTA C/A/P: Uncomplicated diverticulitis. No PE. No 
acute aortic abnormality  
 - Patient was given: Oxycodone, Flagyl, Morphine  
 
 - Vitals on transfer: 99.1, 65, 154/92, 20, 100% RA  

On the floor, the patient feels much more comfortable. He denies 
any ongoing pain. He endorses the above history and has no more 
complaints.  

Review of systems: As per HPI  

 
Past Medical History:
1. Probable HTN  
2. Admitted for some sort of illness in his lungs (he cannot 
remember) years ago  
3. Tobacco abuse  

 
Social History:
___
Family History:
Mother- ___ cancer (dx and d. ___)
Father- unknown 
 
Physical ___:
ADMISSION PHYSICAL EXAM
=======================VS: 99.0 127/76 80 18 98 Ra  
Gen: Lying in bed, in NAD  
HEENT: NC/AT, EOMI, PERRL, MMM, tongue midline on protrusion, 
symmetric palatal elevation; symmetric smile and eyebrow raise  
NECK: supple, symmetric  
CV: RRR, S1, S2, +S4; no m/r; no reproducible chest pain on 
palpation of anterior chest  
Pulm: CTAB no c/r/w  
Abd: Soft, ND, minimal TTP in LLQ, no r/g, BS+  
GU: no foley  
Ext: WWP, no pitting edema in b/l ___  
Skin: intact, moist  
Neuro: alert and interactive appropriately; strength ___ in b/l 
UE and able to lift both legs up against gravity in bed; 
sensation to light touch intact and symmetric along all 
divisions of CN5, UE, torso, and ___ bilaterally 

DISCHARGE PHYSICAL EXAM
======================= 
VS: 99.3 PO 130 / 79 77 18 95 RA 
Gen: Lying in bed, in NAD  
HEENT: NC/AT, PERRL, EOMI, MMM 
NECK: supple, no JVD 
CV: RRR, S1 + S2 present, no mrg 
RESP: CTAB, no wheezes/crackles
Abd: Soft, non-distended, mildly TTP LLQ, no rebound/guarding, 
+BS
GU: no foley   
Ext: WWP, PPP, no ___ edema
Skin: intact, moist  
Neuro: CNII-XII intact, ___ strength in UE and ___, AOx3  
 
 
Pertinent Results:
ADMISSION LABS
===============
___ 10:05PM BLOOD WBC-9.7 RBC-4.31* Hgb-12.8* Hct-38.6* 
MCV-90 MCH-29.7 MCHC-33.2 RDW-13.1 RDWSD-43.4 Plt ___
___ 10:05PM BLOOD Neuts-71.1* Lymphs-16.6* Monos-8.1 
Eos-3.6 Baso-0.2 Im ___ AbsNeut-6.92* AbsLymp-1.62 
AbsMono-0.79 AbsEos-0.35 AbsBaso-0.02
___ 10:05PM BLOOD Plt ___
___ 10:35PM BLOOD ___ PTT-28.7 ___
___ 10:05PM BLOOD Glucose-111* UreaN-15 Creat-0.8 Na-139 
K-3.7 Cl-102 HCO3-23 AnGap-18
___ 10:05PM BLOOD ALT-11 AST-16 AlkPhos-74 TotBili-0.2
___ 10:05PM BLOOD Lipase-24
___ 10:05PM BLOOD cTropnT-<0.01
___ 10:05PM BLOOD Albumin-4.1

DISCHARGE LABS
==============
___ 02:07AM BLOOD Lactate-1.3
___ 06:25AM BLOOD WBC-10.5* RBC-4.35* Hgb-12.8* Hct-39.4* 
MCV-91 MCH-29.4 MCHC-32.5 RDW-13.3 RDWSD-43.9 Plt ___
___ 06:25AM BLOOD Neuts-76.8* Lymphs-14.3* Monos-6.9 
Eos-1.3 Baso-0.3 Im ___ AbsNeut-8.09* AbsLymp-1.51 
AbsMono-0.73 AbsEos-0.14 AbsBaso-0.03
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-97 UreaN-11 Creat-0.8 Na-138 
K-4.0 Cl-104 HCO3-20* AnGap-18
___ 06:25AM BLOOD ALT-10 AST-14 LD(LDH)-156 AlkPhos-71 
TotBili-0.3
___ 06:25AM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD Albumin-3.9 Calcium-8.8 Phos-3.7 Mg-2.3

IMAGES
======
EKG (___): Sinus, rate 63, normal axis; LVH criteria; probable 
left atrial abnormality; J point elevation with asymmetrically 
tall T-waves c/w repol abnl; overall consistent with prior on 
___  

CTA C/A/P (___):  
1. Uncomplicated diverticulitis involving the descending and 
sigmoid colons.  
2. No pulmonary embolus or acute aortic abnormality.  

MICRO
=====

Blood culture (___): pending
Urine culture (___): pending  

 
Brief Hospital Course:
Mr. ___ is a ___ without known ___ p/w sudden onset 
left abdomen/flank pain found to have uncomplicated 
diverticulitis on CT A/P.

# Diverticulitis, uncomplicated. Pt p/w left abdominal pain, 
found to have diverticulitis on CT A/P in the ED. AF, no 
leukocytosis and abdominal exam benign, pain now resolved. Pt 
was started on IV cipro/flagyl and transitioned to augmentin for 
10D course. Pt was tolerating full diet prior to discharge. 

# HTN. Initially hypertensive to 182/101 on admission to the ED, 
possibly ___ pain. BP since 120s-130s, however EKG with signs of 
LVH and h/o ETOH use is c/f undiagnosed hypertension. 

# Anemia, normocytic: Hgb 12.8 on admission, unclear baseline 
though stable from ___ ED admission. Of note, presented to ED 
___ with a CC of BRBPR. Denies any blood in stool currently. 
Given pt's age, family history of ___ cancer, and personal h/o 
GIB pt requires outpatient colonoscopy. 

TRANSITIONAL ISSUES:
====================
[ ] Pt requires outpatient blood pressure monitoring. Given LVH 
on EKG and h/o ETOH usage there is concern that pt has 
undiagnosed hypertension, though SBPs were 120-130s at time of 
discharge
[ ] Requires outpatient colonoscopy 
[ ] Outpatient smoking/etoh cessation counseling

#CODE: Full
#Contact: ___ (___) 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 9 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 TAB by mouth 
twice a day Disp #*18 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
=================
Diverticulitis

SECONDARY DIAGNOSIS
===================
Hypertensive Urgency
Smoking 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Señor ___,

Fue un placer ser ___.

Fue ___ hospital porque tenía dolor ___ estómago. 
Recibió un TAC para ___ dolor y discubrimos ___ tiene una 
___ colón ___ se llama diverticulitis. Este occure 
porque ___ colón son débiles ___ 
___ condición ___ es muy común ___ se llama 
diverticulosis) y este diverticulosis ___ mas fácil obtener 
infecciones, ___ diverticulitis. 

Recibió ___ antibióticos ___ hospital y debe continuar 
tomando antibióticos por nueve días más, dos ___ dia. 

También es importante ___ reciba una colonoscopia cuando ___ 
hospital.

Si tenga mas dolor ___ estómago o ___ debe 
___ hospital para evaluación. 

Ojalá ___ se sienta mejor
- ___ medico de ___ 
 
Followup Instructions:
___